* C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\RCA_fulladder_circuit.asc
XX1 N005 0 0 N004 Carry S3 full_adder
XX2 N006 N002 N002 N002 N005 S2 full_adder
XX3 N007 N001 0 N001 N006 S1 full_adder
XX4 0 NC_01 N003 N003 N007 S0 full_adder
V2 N003 0 5
V4 N001 0 5
V5 N002 0 5
V3 N004 0 5

* block symbol definitions
.subckt full_adder Cin B A VDD Carry Sum
XX1 VDD A B Cin Sum fuller_adder_sum
XX2 Carry VDD B A Cin fuller_adder_carry
.ends full_adder

.subckt fuller_adder_sum VDD A B Cin Sum
XX1 A_not B_not Cin VDD N001 and_3
XX2 A_not B Cin_not VDD N002 and_3
XX3 A B_not Cin_not VDD N005 and_3
XX4 A B Cin VDD N006 and_3
XX7 N002 N001 N003 VDD or_gate
XX8 N006 N005 N004 VDD or_gate
XX9 N004 N003 Sum VDD or_gate
XX11 B VDD B_not inverter
XX12 A VDD A_not inverter
XX13 Cin VDD Cin_not inverter
.ends fuller_adder_sum

.subckt fuller_adder_carry Carry VDD B A Cin
XX1 Cin B N007 VDD nand_gate
XX2 A Cin N005 VDD nand_gate
XX3 A B N001 VDD nand_gate
XX4 N001 VDD N002 inverter
XX5 N005 VDD N003 inverter
XX6 N007 VDD N006 inverter
XX7 N003 N002 N004 VDD or_gate
XX8 N006 N004 Carry VDD or_gate
.ends fuller_adder_carry

.subckt and_3 A B Cin VDD AND_3_OUT
XX1 A B N001 VDD nand_gate
XX2 N002 Cin N003 VDD nand_gate
XX3 N001 VDD N002 inverter
XX4 N003 VDD AND_3_OUT inverter
.ends and_3

.subckt or_gate A B Vout VDD
M5 N001 A_not 0 0 NMOS
M1 Vout A_not VDD VDD PMOS
M2 Vout B_not VDD VDD PMOS
M3 Vout B_not N001 N001 NMOS
XX3 B VDD B_not inverter
XX4 A VDD A_not inverter
.ends or_gate

.subckt inverter Vin VDD Vout
M1 Vout Vin VDD VDD RIT4007P7
M2 Vout Vin 0 0 RIT4007N7
.inc "C:\Users\colle\OneDrive - California Polytechnic State University\EE 307\CD4007.mod"
.ends inverter

.subckt nand_gate A B Vout VDD
M5 N001 A 0 0 NMOS
M6 Vout A VDD VDD PMOS
M7 Vout B VDD VDD PMOS
M8 Vout B N001 N001 NMOS
.ends nand_gate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\colle\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 24ms
.backanno
.end
